US04791123
[2-(4-Ethoxyphenyl)-2-trifluoromethylpropyl](4-fluoro-3-phenoxybenzyl)ether
Sodium hydride (144 mg; 6 mmol) was suspended in dimethoxyethane (16 ml) and then in turn, with stirring, there was added 2-(4-ethoxyphenyl)-2-trifluoromethyl-1-propanol (1.25 g; 5.044 mmol), a spatula of sodium iodide and 4-fluoro-3-phenoxybenzyl bromide (1.4 g; 5.04 mmol). After stirring for 5 hours at room temperature, the mixture was added to ice-water, extracted 3 times with ether and the extracts washed with water dried over sodium sulphate and evaporated. After chromatography on silica gel using a mixture of ethyl acetate and hexane, there was obtained 2.06 g of product (=91.1% of theory).

reactant | Sodium hydride | 6 mmol, 144 mg | [H-].[Na+]
reactant | 2-(4-ethoxyphenyl)-2-trifluoromethyl-1-propanol | 5.044 mmol, 1.25 g | C(C)OC1=CC=C(C=C1)C(CO)(C)C(F)(F)F | C12H15F3O2
reactant | sodium iodide | [I-].[Na+]
reactant | 4-fluoro-3-phenoxybenzyl bromide | 5.04 mmol, 1.4 g | FC1=C(C=C(CBr)C=C1)OC1=CC=CC=C1 | C13H10BrFO
solvent | dimethoxyethane | 16 ml | C(OC)COC | C4H10O2
product | [2-(4-Ethoxyphenyl)-2-trifluoromethylpropyl](4-fluoro-3-phenoxybenzyl)ether | 2.06 g, 91.1% | C(C)OC1=CC=C(C=C1)C(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C(F)(F)F | C25H24F4O3
